US03993780
A mixture of 4.4 g of 4-ethoxy-4-(4-fluorophenyl)-butyl chloride, 3.6 g of 2-(2-ethoxyphenoxy)ethylamine, 2 g of sodium bicarbonate and 44 ml of N,N-dimethylformamide was stirred at about 110° C for 20 hours. After cooling, the reaction mixture was poured into cold water and extracted with benzene. The benzene layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The oily residue was treated with ethanolic oxalic acid and recrystallized from ethanol to give N-[4-ethoxy-4-(4-fluorophenyl)butyl]-2-(2-ethoxyphenoxy)-ethylamine oxalate, M.P. 157° - 160° C.

reactant | 4-ethoxy-4-(4-fluorophenyl)-butyl chloride | 4.4 g | C(C)OC(CCCCl)C1=CC=C(C=C1)F | C12H16ClFO
reactant | 2-(2-ethoxyphenoxy)ethylamine | 3.6 g | C(C)OC1=C(OCCN)C=CC=C1 | C10H15NO2
reactant | sodium bicarbonate | 2 g | C([O-])(O)=O.[Na+]
reactant | N,N-dimethylformamide | 44 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[4-ethoxy-4-(4-fluorophenyl)butyl]-2-(2-ethoxyphenoxy)-ethylamine oxalate | C(C(=O)O)(=O)O.C(C)OC(CCCNCCOC1=C(C=CC=C1)OCC)C1=CC=C(C=C1)F | InChI=1S/C22H30FNO3.C2H2O4/c1-3-25-20(18-11-13-19(23)14-12-18)10-7-15-24-16-17-27-22-9-6-5-8-21(22)26-4-2;3-1(4)2(5)6/h5-6,8-9,11-14,20,24H,3-4,7,10,15-17H2,1-2H3;(H,3,4)(H,5,6)
